Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Vicodin / Prochlorperazine / Phenergan / Percocet / Benadryl 
Allergy
 
Attending: ___.
 
Chief Complaint:
back pain, syncope
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ woman with a history of low back pain presented to
the ED with worsening low back pain. She was also reporting
syncopal events and was noted to be bradycardic on outside
hospital records so admitted to medicine for further management. 


In the ED, initial VS were:  98.1 78 166/67 18 98%RA. She was
given 60mg of oxycodone and 10mg of diazepam. Per ED dash, OSH
records (which did not come up with patient from the ED) she had
a "recent" MRI of her spine which showed stability of her known,
old T12 compression fracture. Also, per reports, she had
documented episodes of bradycardia.    

On arrival to the floor, she reports having a procedure (?nerve
block, she is not entirely sure) for pain earlier on ___. At that time, her fentanyl patch was taken off and she was
switched to 10mg of valium TID and 30mg of oxycodone q8h (pt 
says
more frequent but rx is written q8h). Since this procedure, she
notes worsening back pain at the site of her previous lumbar
fracture. The pain is so bad that it is difficult for her to
breath. She hasn't been able to really walk too well for the 
past
four weeks. She otherwise ambulates independently. She has also
had twitching since the procedure. She also has been 
syncopizing.
These syncopal events are preceded by a feeling of warmth and
neck pressure. She did hit her head during one recent event. 
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
- Prior diagnoses: Self-reported PTSD, depression. 
- Hospitalizations: Reports 30 day voluntary hospitalization at
___
- Current treaters and treatment: Dr. ___ in ___
- Medication and ECT trials: Reports previously being on
Celexa. Currently on Valium 
- Suicide attempts: Denies, though reports that others thought
she attempted suicide at one point but refuses to give details
regarding this
- Self-injurious behavior: Denies
- Harm to others: Denies
- Access to weapons: Reports that she owns a gun that is locked
in a safe for protection since her daughter was murdered and her
murderer is at large
 
Social History:
 -Born/Raised: Reports she was born and raised in ___
-Family/Support: Reports she had a very loving and supportive
family. Her husband died of cancer in ___. Her daughter was
murdered by her boyfriend on ___. She has one son who she is
close to and speaks to daily and is her greatest form of 
support.
-Relationship status/Children: Widowed. One daughter
(deceased), one son
-___: Lives alone in ___, ___. Has housekeeper that helps
with IADLs.
-Education: Completed college with Bachelor's degree in
literature -Employment/Income: Reports she worked as a ___ for a ___ in ___ until her husband was diagnosed 
with
cancer in ___. She reports having great financial means 
multiple
times.
-Trauma history: Patient's daughter was murdered in ___.
 
Family History:
Sister with bipolar
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS:  ___ 0312 Temp: 99.6 PO BP: 142/69 R Lying HR: 86 RR: 
18
O2 sat: 96% O2 delivery: ra 
GENERAL: NAD, tremulous  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, ___ strength RLE, ___ RUE, 1+ LLE strength, 2+ LUE
strength    
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  
 
 
Pertinent Results:
___ 03:16PM BLOOD WBC-9.8 RBC-4.84 Hgb-14.9 Hct-43.1 MCV-89 
MCH-30.8 MCHC-34.6 RDW-12.1 RDWSD-39.4 Plt ___
___ 03:16PM BLOOD Neuts-78.9* Lymphs-16.9* Monos-3.5* 
Eos-0.0* Baso-0.4 Im ___ AbsNeut-7.70* AbsLymp-1.65 
AbsMono-0.34 AbsEos-0.00* AbsBaso-0.04
___ 07:04AM BLOOD Glucose-89 UreaN-27* Creat-0.9 Na-144 
K-4.2 Cl-103 HCO3-24 AnGap-17
___ 03:16PM BLOOD Glucose-99 UreaN-24* Creat-1.1 Na-144 
K-4.8 Cl-104 HCO3-20* AnGap-20*
___ 03:16PM BLOOD cTropnT-<0.01
___ 03:16PM BLOOD Albumin-5.2 Calcium-10.6* Phos-3.3 Mg-2.2
___ 07:04AM BLOOD Calcium-9.4 Phos-3.0 Mg-2.2

Telemetry: SVT to 150 seen which was limited to ___ minutes and 
resolved spontaneously. 
 
Brief Hospital Course:
#Syncope: Pt's history unclear vasovagal vs primary cardiac 
etiology. In speaking with her pain management center, when she 
runs out of narcotics, she has multiple somatic complaints which 
she was told to report to the hospital for.  Cardiology was 
consulted on the patient and did not think that her story was 
convincing for cardiogenic syncope.  She had a ___ minute 
episode of SVT to 150 on the monitor that was unprovoked and 
asymptomatic.  She ruled-out for MI.  Cardiology ordered an 
echocardiogram, but the results were pending at the time of this 
dictation.  She was given Metoprolol 25mg PO daily.  She 
described episodes where her face becomes red and swells then 
she passes out, but these were not observed.  

#Opiate use disorder with drug seeking behavior - The patient 
has a challenging past with narcotics.  I spoke to her 
outpatient pain clinic who has recently discharged her recently 
for consistently misusing and overusing medications.  ___ RN 
there who knows the patient well states that the patient's 
daughter was murdered in the ___, and each recurring winter, 
she has had uncontrolled back pain, requests large doses of 
narcotics, and misuses them.  The patient would call multiple 
times a day, and if the call was not answered immediately, she 
would leave messages over 7 minutes long.  The patient states 
that she is supposed to be on long-acting narcotics, and that 
multiple other doctors have ___ this.  This is unsubstantiated 
with my review of her records.  She also states that other 
doctors here told ___ she needed to be on more opioids, which is 
also untrue.  Much of the information I relayed to her she 
disputed and said that she has recordings of conversations from 
the pain clinic that she will use to rebut certain statements.  
Her outpatient providers say that she does record conversations 
and threatens to sue when she does not receive certain doses of 
narcotics.  On admission, her medications were unclear, so the 
original provider placed her on Fentanyl 75mcg which was reduced 
to 50 mcg in ___ days after admission.  She was also placed on 
Oxycodone 15mg PO q4 PRN (pain management program said that she 
used up her one month supply in less than 2 weeks).  This was 
discontinued when her history was elicited from outpatient 
providers. 

I also spoke to her primary care provider's office RN who 
described challenges with opiate misuse and also more than one 
episode where she required Narcan for opiate overdose.   I 
explained to the PCP's office that I thought providing 
controlled substances to this patient was very risky and 
potential danger, so therefore, I would not be giving her any of 
these.  They also stated that her PCP was out of town, but that 
the back-up provider would also not provide any additional 
narcotics. She has follow-up in early ___. She was on Valium 
10mg TID on admission, which was weaned down to 5 TID given 
somnolence, and this was tapered to off.  Although I do not 
think she will undergo any withdrawal, I provided her for 
Dicyclomine, Zofran, and Imodium in case she has any symptoms of 
withdrawal.  She was referred to psychiatry on multiple 
occasions, both as inpatient and as outpatient and has refused 
this intervention consistently.  She was given information for 
Suboxone and Methadone programs as an outpatient, but she stated 
that she did not want to have to talk to anyone, she just wanted 
to get the drugs.  We tried to persuade her that this form of 
treatment would be in here interest, but she had reasons that 
she did not want to do this.  Her son called asking why she was 
not going to be given narcotic prescriptions.  I explained that 
this is not different from her outpatient provider's decisions, 
and if he disagrees, he is welcome to reach out to them or 
pursue a second opinion at a different institution.  

#Disposition - she was recommended to be discharged to rehab, 
but refused.  She was then recommended to have home with 
services, which are being set-up, though she also expressed 
refusal of these too. 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Diazepam 10 mg PO TID 
2. OxyCODONE (Immediate Release) 30 mg PO Q8H 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Moderate  
2.  DICYCLOMine 20 mg PO TID:PRN abdominal cramps  
RX *dicyclomine 20 mg 1 tablet(s) by mouth three times a day 
Disp #*15 Tablet Refills:*0 
3.  LOPERamide 2 mg PO QID:PRN diarrhea  
4.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth once a day 
Disp #*15 Tablet Refills:*0 
5.  Ondansetron ODT 4 mg PO Q8H:PRN nausea 
RX *ondansetron 4 mg 1 tablet(s) by mouth three times a day Disp 
#*12 Tablet Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Opiate use disorder
Supraventricular tachycardia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

We admitted you for problems with your chronic pain and feelings 
of "passing out." While you were here, we watched your heart 
rhythm which was fast up to 150.  In addition, you have new 
chronic pain but because your pain clinic discharged you and we 
have concerns about you misusing your narcotic medicine and 
Valium, these were not given on discharge.  Your echocardiogram 
results were pending at the time of dictation, but your primary 
care doctor can discuss these results with you, or you can call 
___ to make a follow-up appointment in cardiology 
clinic.  

We wish you the best with your health,
___ Medicine
 
Followup Instructions:
___